US06992103B2
[(1S,2S,4R)-1-Benzyl-4-(bicyclo[2.2.1]hept-2-ylcarbamoyl)-2-hydroxy-7-methyl-octyl]carbamic acid tert-butyl ester (D32)
[(1S,2S,4R)-1-Benzyl-4-(bicyclo[2.2.1]hept-2-ylcarbamoyl)-2-hydroxy-7-methyl-oct-6-enyl]carbamic acid tert-butyl ester (D31) (1.61 g, 3.33 mmol) in methanol (30 ml) was hydrogenated over 10% Pd/C (300 mg) for 3.75 h. The catalyst was filtered and the filtrate evaporated to afford D32 1.51 g.

reactant | [(1S,2S,4R)-1-Benzyl-4-(bicyclo[2.2.1]hept-2-ylcarbamoyl)-2-hydroxy-7-methyl-oct-6-enyl]carbamic acid tert-butyl ester | 3.33 mmol, 1.61 g | C(C)(C)(C)OC(N[C@H]([C@H](C[C@@H](CC=C(C)C)C(NC1C2CCC(C1)C2)=O)O)CC2=CC=CC=C2)=O | C29H44N2O4
solvent | methanol | 30 ml | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | [(1S,2S,4R)-1-Benzyl-4-(bicyclo[2.2.1]hept-2-ylcarbamoyl)-2-hydroxy-7-methyl-octyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]([C@H](C[C@@H](CCC(C)C)C(NC1C2CCC(C1)C2)=O)O)CC2=CC=CC=C2)=O | C29H46N2O4
